US09023848B2
Step 1: tert-Butyl 2-methyl-6-nitro-4-phenylquinoline-3-carboxylate:
A mixture of 2-amino-5-nitrobenzophenone (2 g, 8.26 mmol), H2NSO3H (0.09 g, 0.93 mmol) and tert-butyl acetoacetate (3 ml, 18 mmol) was stirred for 1 h at 120° C. under N2. To it, more of H2NSO3H (0.04 g, 0.41 mmol) was added and stirring was continued at 120° C. until all 2-amino-5-nitrobenzophenone was consumed (about 3 h). After cooling to room temperature the solid material formed was dispersed in MeOH (20 ml) and filtered off, washed with fresh MeOH and dried to give pure product as a creamy solid (1.6 g, 53%). 1H NMR (300 MHz, CDCl3) δ 8.41-8.5(m, 2H, 8.15 (d, J=9 Hz, 1H), 7.52-7.55(m, 3H), 7.3-7.4 (m, 2H), 2.82(s, 3H), 1.24(s, 9H).

reactant | 2-amino-5-nitrobenzophenone | 8.26 mmol, 2 g | NC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)[N+](=O)[O-] | C13H10N2O3
reactant | H2NSO3H | 0.93 mmol, 0.09 g | NS(=O)(=O)O | H3NO3S
reactant | tert-butyl acetoacetate | 18 mmol, 3 ml | C(CC(=O)C)(=O)OC(C)(C)C | C8H14O3
solvent | MeOH | 20 ml | CO | CH4O
catalyst | H2NSO3H | 0.41 mmol, 0.04 g | NS(=O)(=O)O | H3NO3S
product | tert-Butyl 2-methyl-6-nitro-4-phenylquinoline-3-carboxylate | 1.6 g, 53% | CC1=NC2=CC=C(C=C2C(=C1C(=O)OC(C)(C)C)C1=CC=CC=C1)[N+](=O)[O-] | C21H20N2O4
